US08084448B2
A. 5-{2-Benzyloxy-4-[(E)-2-(4,4-dimethyl-5-oxo-4,5-dihydro-oxazol-2-yl)-vinyl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one
The title compound is prepared using 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one and 4,4-dimethyl-2-vinyl-4H-oxazol-5-one analogous to Example 108, step A.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | 4,4-dimethyl-2-vinyl-4H-oxazol-5-one | CC1(N=C(OC1=O)C=C)C | C7H9NO2
product | 5-{2-Benzyloxy-4-[(E)-2-(4,4-dimethyl-5-oxo-4,5-dihydro-oxazol-2-yl)-vinyl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)\C=C\C=1OC(C(N1)(C)C)=O)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C27H33N3O6SSi
